US05646173
A solution of 13.0 g of 4-methyl-1-indanone, 19.2 ml of 3-buten-2-ol and 170 mg of p-toluenesulfonic acid in 170 ml of 2,2-dimethoxy-propane was boiled under reflux for 46 hours on a water separator filled with molecular sieve (0.4 nm, 2 mm pearl shaped). The reaction mixture was subsequently concentrated in a vacuum and purified by column chromatography on silica gel (hexane/diethyl ether 5:1). 12.0 g (67%) of (RS)-2-(2-buten-1-yl)-4-methyl-1-indanone were obtained as a yellow oil.

reactant | 4-methyl-1-indanone | 13.0 g | CC1=C2CCC(C2=CC=C1)=O | C10H10O
reactant | 3-buten-2-ol | 19.2 ml | CC(C=C)O | C4H8O
reactant | p-toluenesulfonic acid | 170 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | 2,2-dimethoxy-propane | 170 ml | COC(C)(C)OC | C5H12O2
product | (RS)-2-(2-buten-1-yl)-4-methyl-1-indanone | 12.0 g, 67% | C(C=CC)C1C(C2=CC=CC(=C2C1)C)=O | C14H16O
